US05461049
The 2-(2-dodecyl-2H-tetrazol-5-yl)-2-methoxyiminoacetic acid, ethyl ester (20.1 g, 54.6 mmol) was dissolved in ethanol (200 mL) and treated with 2 equivalents of sodium hydroxide pellets (4.37 g, 110 mmol). Dissolution gradually occurred and the solution was stirred at room temperature for overnight. The ethanol was concentrated in vacuo and the viscous liquid was taken up in water and acidified (pH 3.0) with concentrated HCl. The product was extracted from the aqueous media with 2 portions of ethyl acetate, which were combined and washed with brine, dried (MgSO4), and filtered. The filtrate was concentrated in vacuo to give 17.5 g (94%) of 2-(2-dodecyl -2H-tetrazol-5-yl)-2-methoxyimino-acetic acid as a viscous liquid;

reactant | 2-(2-dodecyl-2H-tetrazol-5-yl)-2-methoxyiminoacetic acid, ethyl ester | 54.6 mmol, 20.1 g | C(CCCCCCCCCCC)N1N=C(N=N1)C(C(=O)OCC)=NOC | C18H33N5O3
reactant | sodium hydroxide | 2 equivalents | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-(2-dodecyl -2H-tetrazol-5-yl)-2-methoxyimino-acetic acid | 17.5 g, 94% | C(CCCCCCCCCCC)N1N=C(N=N1)C(C(=O)O)=NOC | C16H29N5O3
